US05493044
Preparation of 1-(t-Butyldiphenylsilyloxy)-2-methylbutane Lot 8982, 461-66
A 250 ml, three-necked flask was fitted with a large magnetic, egg-shaped stir bar, a small pressure-equalizing addition funnel, a thermocouple connected to a THERM-O-WATCH®, a reflux condenser, and an argon inlet. This apparatus was dried in an oven overnight at 125° C., assembled hot, and allowed to cool to room temperature in a stream of argon. The flask was charged with 46.27 grams (0.168 mole, 1.01 equivalents) of t-butyldiphenylsilyl chloride, 11.69 grams (0.172 mole, 1.03 equivalents) of imidazole, and 100 mls of hexane. 2-Methyl-1-butanol, 14.69 grams (0.167 mole, 1.00 equivalent), was then added dropwise to the resultant slurry. A very mild exotherm was detected. The total feed time was twelve minutes. A fine white precipitate formed almost immediately. The reaction mixture was stirred at room temperature, and monitored by GC analysis. An aliquot of the clear supernatant was injected into the GC. After seven hours, both starting materials were still present. Therefore, the reaction mixture was heated to 60° C. with a heating mantle, controlled by the THERM-O-WATCH®. The reaction mixture was stirred overnight at 60° C. The sample after 23.5 hours indicated all the starting material had been consumed, with the formation of a single, higher boiling component. The reaction mixture was allowed to cool to room temperature, then it was transferred to a small, dry, Chemglass pressure filter. The filtrate was collected in a dry, 500 ml flask. The filter cake was rinsed with additional hexane (2×100 ml). The solvent was removed on the rotary evaporator, with the bath temperature set at 40° C.

reactant | t-butyldiphenylsilyl chloride | 0.168 mole, 46.27 grams, 1.01 equivalents | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 0.172 mole, 11.69 grams, 1.03 equivalents | N1C=NC=C1 | C3H4N2
reactant | 2-Methyl-1-butanol | CC(CO)CC | C5H12O
solvent | hexane | 100 mls | CCCCCC | C6H14
product | 1-(t-Butyldiphenylsilyloxy)-2-methylbutane | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CC)C | C21H30OSi
